US05374636
(1RS,2RS,3RS)-2-Carbomethoxy-3-hydroxy-tropane, hydrochloride.
To a solution of (1RS,2RS)-2-carbomethoxy-3-tropanone (17 g, 85 mmol) in 750 ml methanol cooled to -35° C. was added sodium borohydride (17 g, 450 mmol) and the mixture was stirred for 4 hours. The cooled solution was quenched by slow addition of concentrated hydrochloric acid (40 ml) and the mixture was concentrated in vacuo. Water (400 mi) was added and the pH was adjusted to 3 by addition of concentrated hydrochloric acid. After having washed the water phase three times with diethyl ether pH was adjusted to 11 by addition of concentrated ammonium hydroxide and the water phase was extracted three times with methylene chloride. Concentration in vacuo yields an oil which was dissolved in ethanol and added concentrated hydrochloric acid followed by concentration in vacuo. Freeze drying the residue yielded the title compound as an amorphous product.

reactant | (1RS,2RS)-2-carbomethoxy-3-tropanone | 85 mmol, 17 g | C(=O)(OC)C1C2CC[C@@H](CC1=O)N2C | C10H15NO3
reactant | sodium borohydride | 450 mmol, 17 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 750 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | (1RS,2RS,3RS)-2-Carbomethoxy-3-hydroxy-tropane, hydrochloride | Cl.C(=O)(OC)C1C2CC[C@@H](CC1O)N2C | InChI=1S/C10H17NO3.ClH/c1-11-6-3-4-7(11)9(8(12)5-6)10(13)14-2;/h6-9,12H,3-5H2,1-2H3;1H/t6-,7?,8?,9?;/m0./s1
